US07087579B2
A mixture of 4-[(4-bromophenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.099 g), 4-fluorophenylboronic acid (0.046 g), cesium fluoride (0.050 g) and tetrakis(triphenylphosphine)palladium(0) (0.0038 g) in 1,2-dimethoxyethane (1.3 mL), ethanol (0.3 mL) and water (0.3 mL) was stirred at 85° C. for 18 hours. The reaction mixture was purified by column chromatography on silica gel (eluent: hexane/ethylacetate=1/1-1/2-1/5) to give 4-{[4-(4-fluorophenyl)phenyl]methyl}-5-methyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole (0.061 g).

reactant | 4-[(4-bromophenyl)methyl]-5-methyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.099 g | BrC1=CC=C(C=C1)CC=1C(=NNC1C)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C25H29BrN2O10
reactant | 4-fluorophenylboronic acid | 0.046 g | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | cesium fluoride | 0.050 g | [F-].[Cs+]
solvent | 1,2-dimethoxyethane | 1.3 mL | COCCOC | C4H10O2
solvent | ethanol | 0.3 mL | C(C)O | C2H6O
solvent | water | 0.3 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.0038 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-{[4-(4-fluorophenyl)phenyl]methyl}-5-methyl-3-(2,3,4,6-tetra-O-acetyl-β-D-glucopyranosyloxy)-1H-pyrazole | 0.061 g | FC1=CC=C(C=C1)C1=CC=C(C=C1)CC=1C(=NNC1C)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)COC(C)=O | C31H33FN2O10
